Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[O:4],1.41812398153
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9]>>[O:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9],2.64592744541
[C:10]([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-7.623255427030001
[O:1]=[C:2]([H:3])[C:4]1[O:5][C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],2.28558167529
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[O:7],2.5482005189900003
[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:4][C:5]>>[H:1][C:2][C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-2.83383619812
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:8]([H:9])[H:10].[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11],-4.29284063626
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:11]([H:12])[H:13].[O:9][H:10],2.7158548769200004
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.71798619318
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9],0.80996047641
[C:1]#[C:2][O:3][C:4][O:5][H:6]>>[C:1]#[C:2].[O:3]=[C:4][O:5][H:6],2.30183294307
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.585570832819998
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]#[C:3].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10],1.87714054874
[H:1][O:2][O:3][H:4]>>[H:1].[O:2][O:3][H:4],3.78896898091
[H:10].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.81634259206
[C:1]=[C:2]([O:3][C:4][H:5])[C:7]([H:8])([H:9])[H:10].[H:6]>>[C:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-4.00306538115
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[H:8]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[H:8],3.92082097165
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[C:7](=[O:8])[H:9]>>[H:9].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[O:8],2.69166827432
[H:1][O:2][O:3]/[C:4](=[C:5]\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][O:2][O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.0414560472900005
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3][C:4]1[C:5][C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],1.32937336783
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4](=[C:5]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:6],3.12191538065
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[H:1].[O:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9],0.7926604485969999
[H:1]/[C:2](=[C:3](/[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])([H:11])[H:12].[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[C:13]([H:14])([H:15])[H:16],4.5015376486
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],4.27055443446
[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[O:1]=[C:2][O:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.42201822447
[H:11].[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]=[O:10]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][O:10][H:11],-1.9026265409
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6]/[C:7]([H:8])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:9],1.6498953153
[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-5.17672224312
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],4.576901786790001
[H:1]/[C:2](=[C:3]\[O:4][C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9],2.07018850836
